US06956052B2
1-{4-[(allylamino)sulfonyl]phenyl}-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide
A solid of 1-(4-{[acetyl(allyl)amino]sulfonyl}phenyl)-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide (360 mg, 0.6 mmol) was dissolved in 0.5 N solution of NaOH in EtOH (10 mL) and stirred at room temperature for overnight. The mixture was concentrated. It was purified by HPLC to give the desired compound (210 mg, 62%.) IKK-2 resin IC50≦1 μM.

reactant | 1-(4-{[acetyl(allyl)amino]sulfonyl}phenyl)-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 0.6 mmol, 360 mg | C(C)(=O)N(S(=O)(=O)C1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=C(C=C3)NC(C3=C(C=CC=C3)Cl)=O)C(=O)N)CC=C | C30H26ClN5O5S
solvent | NaOH | [OH-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 1-{4-[(allylamino)sulfonyl]phenyl}-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 210 mg, 62% | C(C=C)NS(=O)(=O)C1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=C(C=C3)NC(C3=C(C=CC=C3)Cl)=O)C(=O)N | C28H24ClN5O4S
